US04668823
154 ml of a 1.72 Molar titrated solution of 0.266 mole of cyclohexylmagnesium chloride in ether was added dropwise to a stirred solution of 47.54 g (0.2656 mole) of phenyldichlorophosphine in 400 ml of anhydrous ether, maintained at +10° C. under an inert atmosphere. After the addition was complete the mixture was stirred for 15 minutes at +10° C. A 2.0 Molar solution of 0.319 mole of phenylmagnesium bromide in 159 ml of ether was then added dropwise at a temperature of between +10° and +22° C. The mixture was warmed to reflux for one-half hour, then cooled to +6° C. and treated dropwise with 160 ml of water then 14 ml of concentrated hydrochloric acid. The mixture was made basic with 10 ml of concentrated ammonium hydroxide (to pH=9) and the ether phase was separated, dried with magnesium sulfate and concentrated to yield a yellow waxy solid. Recrystallization from ethanol gave cyclohexyldiphenylphosphine. MP=52.5°-57.5° C., 31P-NMR δ=-1.97 ppm (relative intensity 999.93) and δ=-1.25 ppm (dicyclohexylphenylphosphine impurity-relative intensity=13.25), Yield=about 70%.

reactant | cyclohexylmagnesium chloride | 0.266 mole | C1(CCCCC1)[Mg]Cl
reactant | phenyldichlorophosphine | 0.2656 mole, 47.54 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | phenylmagnesium bromide | 0.319 mole | C1(=CC=CC=C1)[Mg]Br
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | ammonium hydroxide | 10 ml, pH=9 | [OH-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 159 ml | CCOCC | C4H10O
solvent | water | 160 ml | O | H2O
product | cyclohexyldiphenylphosphine | Yield=about 70% | C1(CCCCC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21P
